US07078405B2
2-(4-Pyrimidinylamino)-1-butanol
2-[(6-Chloro-4-pyrimidinyl)amino]-1-butanol was dissolved in ethanol (110 mL), which was sequentially added with a 5N aqueous sodium hydroxide solution (5.5 mL) and Pd—C (hydrous product; 0.55 g), and hydrogenation was performed under hydrogen atmosphere at a normal temperature and a normal pressure. After completion of the reaction, Pd—C was filtered off, and the solvent was evaporated. The resulting residue was extracted with dichloromethane-methanol, and the solvent was removed to give the title compound (4.3 g) as white crystals.

reactant | 2-[(6-Chloro-4-pyrimidinyl)amino]-1-butanol | ClC1=CC(=NC=N1)NC(CO)CC | C8H12ClN3O
reactant | sodium hydroxide | 5N, 5.5 mL | [OH-].[Na+]
solvent | ethanol | 110 mL | C(C)O | C2H6O
catalyst | Pd—C | 0.55 g | [Pd] | Pd
product | 2-(4-Pyrimidinylamino)-1-butanol | 4.3 g | N1=CN=C(C=C1)NC(CO)CC | C8H13N3O
